US08236793B2
N-[6-(1,4-Diaza-bicyclo[3.2.2]non-4-yl)-pyridin-3-yl]-3-nitro-benzamide hydrochloric acid salt (Compound G17)
Was prepared according to Method G from 6-(1,4-diaza-bicyclo[3.2.2]non-4-yl)-pyridin-3-ylamine and 3-nitrobenzoyl chloride. Mp. >280° C. (decomp.).

reactant | 6-(1,4-diaza-bicyclo[3.2.2]non-4-yl)-pyridin-3-ylamine | N12CCN(C(CC1)CC2)C2=CC=C(C=N2)N | C12H18N4
reactant | 3-nitrobenzoyl chloride | [N+](=O)([O-])C=1C=C(C(=O)Cl)C=CC1 | C7H4ClNO3
product | N-[6-(1,4-Diaza-bicyclo[3.2.2]non-4-yl)-pyridin-3-yl]-3-nitro-benzamide hydrochloric acid salt | Cl.N12CCN(C(CC1)CC2)C2=CC=C(C=N2)NC(C2=CC(=CC=C2)[N+](=O)[O-])=O | InChI=1S/C19H21N5O3.ClH/c25-19(14-2-1-3-17(12-14)24(26)27)21-15-4-5-18(20-13-15)23-11-10-22-8-6-16(23)7-9-22;/h1-5,12-13,16H,6-11H2,(H,21,25);1H
